US06982278B2
(2-Ethyl-4-hydroxyphenoxy)acetic acid ethyl ester
A solution of (4-benzyloxy-2-vinylphenoxy)acetic acid ethyl ester (0.55 g, 1.77 mmol) in ethanol (15 mL) was treated with 5% Pd/C (70 mg) and hydrogen (60 psi) at ambient temperature for 18 h. The mixture was filtered and concentrated in vacuo to give a tan oil (0.31 g, 77%): 1H NMR (400 MHz, CDCl3) δ 6.68 (d, J=2.9 Hz, 1H), 6.62 (d, J=8.8 Hz, 1H), 6.57 (dd, J=8.8, 2.9 Hz, 1H), 4.62 (s, 1H), 4.57 (s, 2H), 4.25 (q, J=7.2 Hz, 2H), 3.73 (q, J=7.0 Hz, 2H), 2.66 (q, J=7.7 Hz, 2H), 1.34-0.92 (m, 6H); MS (FIA) m/e 225 (M+1).

reactant | (4-benzyloxy-2-vinylphenoxy)acetic acid ethyl ester | 1.77 mmol, 0.55 g | C(C)OC(COC1=C(C=C(C=C1)OCC1=CC=CC=C1)C=C)=O | C19H20O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | (2-Ethyl-4-hydroxyphenoxy)acetic acid ethyl ester | 0.31 g, 77% | C(C)OC(COC1=C(C=C(C=C1)O)CC)=O | C12H16O4
